US06310076B1
3-(Piperidin-1-yl)propyl acetoacetate
Diketene (1.48 mL, 19.2 mmol, 1.30 equiv) was added to a solution of 1-(3-hydroxypropyl)piperidine (2.12 g, 14.8 mmol, 1.00 equiv, Leonard, N. J.; Musker, W. K. J. Am. Chem. Soc. 1960, 82, 5148) in toluene (30 mL), and the mixture was stirred under argon for 72 hours at room temperature. Removal of solvent gave 3.52 g (100%) of light brown, viscous oil, which was characterized spectroscopically and used for the next reaction without purification.

reactant | Diketene | 19.2 mmol, 1.48 mL, 1.30 equiv | C=C1CC(=O)O1 | C4H4O2
reactant | 1-(3-hydroxypropyl)piperidine | 14.8 mmol, 2.12 g, 1.00 equiv | OCCCN1CCCCC1 | C8H17NO
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(Piperidin-1-yl)propyl acetoacetate | C(CC(=O)C)(=O)OCCCN1CCCCC1 | C12H21NO3
